US06949579B2
504 mg of 4-ethylphenylboronic acid, 664 mg of sodium carbonate in 20 cm 3 of distilled water and 202 mg of tetrakis(triphenylphosphine)palladium are added to 1 g of N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 58, in 75 cm3 of dioxane. The mixture is refluxed for 18 hours and then the temperature is allowed to return to room temperature to add 75 cm3 of ethyl acetate and 50 cm3 of water, and the reaction medium is filtered through a sinter funnel packed with Celite. The filtrate is separated by settling and the organic phase is washed successively with 50 cm3 of water, with 50 cm3 of saturated aqueous sodium chloride solution, separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.), and then dried (90 Pa; 50° C.) to give 1.1 g of N-[6-chloro-5-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide in the form of a yellow oil.

reactant | 4-ethylphenylboronic acid | 504 mg | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | sodium carbonate | 664 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
solvent | dioxane | 75 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 202 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 cm3 | O | H2O
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
product | N-[6-chloro-5-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.1 g | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=C(C=C1)CC | C25H34ClN3O2Si
